US09447097B2
N-(2-(1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethyl)nicotinamide
Nicotinic acid (11.4 mg, 92.3 μmol) was combined with DMF (1.0 mL) to give a colorless solution. To this solution was added TBTU (29.6 mg, 92.3 μmol), and DIEA (54.2 mg, 71.8 μl) were added. Finally 1-(2-(2-aminoethoxy)-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine (30 mg, 83.9 μmol) was added and the reaction mixture was stirred for 1 hour at room temperature. Volatiles were removed in high vacuum at 40° C. The residue was dissolve in a mixture of ethyl acetate (5 mL) and methanol (0.5 mL). 1N sodium hydroxide solution (1.5 mL) was added and after a few minutes stirring the layers were separated. The aqueous layer was extracted with ethyl acetate. The organic phases were combined dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel-NH2, 0% to 10% methanol in DCM) to give the title product (33 mg, 85%) as white foam; LC-MS (UV peak area, ESI) 88%, 463.2459 (MH+).

reactant | Nicotinic acid | 92.3 μmol, 11.4 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | TBTU | 92.3 μmol, 29.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 71.8 μl, 54.2 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-(2-aminoethoxy)-2-methylpropyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 83.9 μmol, 30 mg | NCCOC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC)(C)C | C19H27N5O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(2-(1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yloxy)ethyl)nicotinamide | 33 mg, 85% | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(OCCNC(C2=CN=CC=C2)=O)C)COCC | C25H30N6O3
